Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
vertigo 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed woman with PMHx of DM2, HTN,
prior TIA and vertigo who presents with vertigo and a black area
in her R lateral visual field. She reports that this morning she
woke up and had vertigo with a sensation of the room spinning. 
She doesn't know it it was spinning right or left, but looking 
up
was "the worst". When she first got it, she noticed that the 
room
was spinning but that her vision was cloudy and then went black
in both eyes and she "couldn't see".  This lasted for less than 
1
minute, and then when it stopped she felt like there was a black
circle in her R lateral field of vision "like a fly".  When 
asked
to explain it more she reported it was like an "eye, grey on the
outside and then black on the inside in a circle".  This did not
go away all day, but she got a cold compress and put it on her
head and took meclizine and after 30 minutes her vertigo
improved.  Of note, she has had episodes of vertigo for the last
___ years, and they usually occur when she wakes up, improve over 
30
mins with melizine and are worse when she looks up.  She doesn't
have nausea or vomiting with them and she does have some mild
unsteadiness walking.  Today's episode was like her prior
episodes, but the vertigo was more severe and the visual deficit
was new.  She has never had any visual issue like she has had
today in the past or with her episodes of vertigo.  She came to
the ED when she felt unwell at work.  In the ED, she got a NCHCT
which showed no no acute issues.  She was admitted for further
workup of possible stroke.   
 
On neuro ROS, the pt reports that her vertigo is improved, but
still c/o a black spot in her R lateral vision, denies headache,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- DM2
- BPPV
- HTN
- TIA in ___ with aphasia

 
Social History:
___
Family History:
mother died at age ___ of CAD/CHF, father died at age ___ of "old 
age", no hx of strokes in the family
 
Physical Exam:
Physical Exam on Admission:

Vitals: T: 97.5  P: 70  R: 18  BP: 144/98 SaO2: 100% on RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes spontaneously and
___ with cues.  The pt. had good knowledge of current events. 
There was no evidence of apraxia or neglect.
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation, but on red
pin testing, she had a R lateral field cut in her R eye only.
Funduscopic exam revealed no papilledema, exudates, or
hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1
Plantar response was flexor bilaterally.
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
Very subtle dysmetria on FNF on L, but not the R.  Mild
difficulty with mirroring task on the L, but not the R.
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unsteady with tandem walking, unable to complete more
than a few steps. Romberg positive for sway.

PHYSICAL EXAM ON DISCHARGE:

Neurological Exam is intact and nonfocal. This includes, full 
visual fields (tested with color fields) and intact EOMs with no 
nystagmus. She has full strength throughout. No dysmetria or 
intention tremor on F-N-F. 
 
Pertinent Results:
141 / 101 / 17
---------------< 109
3.6 / 29 / 0.9

7.3 >-----< 251
     41.6

___: 10.4 PTT: 33.7 INR: 1.0 

Lactate:3.8

Serum and Urine tox neg. 

UA: moderate leuks, 1 WBC, no bacteria 

DIAGNOSTIC STUDIES: 

NCHCT: no acute process noted

CTA head/neck: calcifications at bilateral carotid bulbs and 
siphons. no stenosis, occluson, dissection, aneurysm. Enlarged 
nodular thyroid, can be assessed with outpt US 

 
Brief Hospital Course:
Ms. ___ presented with vertigo, transient blurry vision and 
right visual field obscurations. She had a NCHCT and CTA head 
and neck performed in the ED, which did not show any acute 
process or arterial stenosis, thrombosis or dissection. As the 
main consideration is the possibility of a vertebral/PCA infarct 
given the vertigo and report of right visual field obscuration, 
she was admitted to the Neurology service for MRI. Her vertigo 
improved with Meclizine. Her neurologic exam was nonfocal and 
notably she had full visual fields to color field confrontation 
testing. She had an MRI of her head, which showed no masses, 
infarcts, or hemorrhage.

In addition, her CTA showed an enlarged nodular thyroid, she 
will need an outpatient ultrasound for further evaluation of 
this.   
 
Medications on Admission:
- diovan/HCTZ 160/25mg QD
- metformin 1,000mg BID
- simvastatin 10mg QD
- ASA 81mg QD
- meclizine 12.5mg BID PRN dizziness

 
Discharge Medications:
1. Meclizine 12.5 mg PO Q12H:PRN dizziness 
2. Simvastatin 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Valsartan 160 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Peripheral Vertigo

Secondary Diagnoses: 
Hypertension
DM II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Neurology Exam at Discharge: nonfocal neurologic exam, including 
full visual fields and EOMs intact with no nystagmus. 

 
Discharge Instructions:
You were admitted to the hospital with symptoms of vertigo, 
similar to your previous vertiginious episodes, and transient 
blurry vision. Your vertigo improved with Meclizine. You were 
admitted to the Neurology service for further evaluation, 
including MRI, to make sure you didn't have a stroke resulting 
in your symptoms. The MRI showed no bleeding, masses, or areas 
which suggested ischemia (lack of blood flow). 
 
Followup Instructions:
___